2119-08-14 09:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   no events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Kayexalate, Heparin sc, fish oil, Vit C, Lipitor, Colace, Risperdal,
   Wellchol, Meclizine, Ranitidine, Senna, RISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-14**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 69 (58 - 79) bpm
   BP: 128/80(80) {116/46(64) - 150/80(100)} mmHg
   RR: 17 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     33 mL
                                                                    845 mL
   PO:
             TF:
   IVF:
                                                                     33 mL
                                                                    845 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    530 mL
   Urine:
   530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     33 mL
                                                                    315 mL
   Respiratory support
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: L temporal abrasion
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): name only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.2 g/dL
   228 K/uL
   158 mg/dL
   2.1 mg/dL
   19 mEq/L
   4.8 mEq/L
   31 mg/dL
   109 mEq/L
   137 mEq/L
   23.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2119-8-14**]  12:29 AM
                             [**2119-8-14**]  07:27 AM
   WBC
   8.7
   Hct
   23.9
   23.5
   Plt
   228
   Cr
   2.1
   TropT
   0.01
   Glucose
   158
   Other labs: PT / PTT / INR:13.9/26.7/1.2, CK / CKMB /
   Troponin-T:98//0.01, Amylase / Lipase:78/107, Ca++:8.5 mg/dL, Mg++:2.3
   mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: FENa- 0.45%
   TSH-1.3
   Ferritin- 5
   Fe- 296
   IBC- 420
   Imaging: Admit CXR- prelim clear
   CT abd/pelvis w/o contrast (wet read): No retroperitoneal or
   intraperitoneal hematoma, fatty liver, vascular calcifications
   .
   CT head w/o contrast (wet read): No intracranial hemorrhage or edema.
   Unchanged right temporal/parietal encephalomalacia. Partial
   opacification or right max sinus, ethmoid air cells.
   .
   CT C-spine w/o contrast (wet read): No fracture or malalignment of
   c-spine. multilevel degenerative changes.
   .
   [**2-1**] MRI Head:
   1. Chronic infarction in the territory of the right posterior cerebral
   artery. No evidence of acute infarction.
   2. Irregularity of the distal left vertebral artery consistent with
   atherosclerotic disease. While the images from the MRA of the neck
   dated [**2110-7-10**] are not available for direct comparison, the report
   describes a "hypoplastic left vertebral artery with a questionable
   slight focal narrowing at the distal left vertebral artery."
   3. Possible narrowing of the left vertebral artery at its origin.
   .
   [**3-4**] EEG:
   Abnormal routine EEG in the waking and drowsy states due to
   the presence of lower voltage activity and theta frequency seen in the
   right posterior quadrant, consistent with a remote history of occipital
   stroke. If clinical suspicion for epilepsy is high, prolonged EEG
   monitoring would be beneficial for further diagnosis. Slowing was seen
   in the left temporal and central regions suggest subcortical
   dysfunction in the left hemisphere.
   Microbiology: Urine cx pending
   ECG: Admit EKG: Sinus bradycardia at 51 bpm, nl axis and intervals,
   nonspecific ST-T wave changes.
   Assessment and Plan
   74 yo male [**Hospital1 69**] resident with scizoaffective d/o, CKD, admitted s/p
   unwitnessed fall and with hyperkalemia, acute renal failure and
   bradycardia.  He does not have any significant persistent neurologic
   deficts.
   1. Fall- longstanding dizziness for which pt is on meclizine, poss
   hypovolemia and orthostasis vs poss syncope given bradycardia in ED
   -bradycardia w/u and eval as below
   -check orthostatics
   -local wound care for L temporal abrasion
   2. Bradycardia- exacerbated by hyperkalemia; has multiple CAD risk
   factors as well but no evidence of ACS
   -r/o cardiac enzymes pending
   -tele monitoring
   -hyperK mgmt
   -check echo
   3. Acute on chronic renal failure- prerenal picture by FENa, likely
   poor po intake in the context of psych disease?
   -f/u SPEP and UPEP to w/u underlying malig as per admission team
   -f/u UCx
   -IVF to restore hypovolemia
   4. Hyperkalemia-related to renal failure above and resolved
   5. Anemia- Fe deficient + chronic disease  (renal dz most likely)
   -trend Hct
   -would give IV iron therapy, consider Epo
   -holding ASA for now
   Remainder of plan as per housestaff note.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   18 Gauge - [**2119-8-13**] 09:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Addendum: On re-check this afternoon, pt noted to be hypertensive,
   hypoxic with desats to 85% RA and wheezing- received morphine, nebs and
   NIPPV with improvement.  Clinical picture suggestive of flash pulmonary
   edema, though his CXR showed more unilateral (R side) infiltrates
   suggestive of aspiration.  Given abrupt worsening in respiratory
   status, will keep pt in ICU for intermittent NIPPV. Abx for HCAP added.
   Pt is critically ill.

2119-08-15 09:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Episode of increased agitation, hypertension, and hypoxemic respiratory
   distress yesterday afternoon. Treated w/ BiPAP, diuresis, broad ABX,
   and Haldol. Received a total of 80mg IV lasix yest.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2119-8-14**] 08:10 PM
   Vancomycin - [**2119-8-14**] 08:58 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2119-8-14**] 08:08 PM
   Labetalol - [**2119-8-14**] 08:08 PM
   Heparin Sodium (Prophylaxis) - [**2119-8-15**] 12:14 AM
   Furosemide (Lasix) - [**2119-8-15**] 01:56 AM
   Other medications:
   fish oil, Lipitor, Colace, risperidone, Welchol, meclizine, Zantac,
   Senna, RISS, Epo, Cefepime IV, Atrovent, Vanco, Cefepime
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-15**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 65 (60 - 132) bpm
   BP: 131/35(61) {112/35(56) - 211/91(108)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,777 mL
                                                                    411 mL
   PO:
                                                                    330 mL
                                                                    320 mL
   TF:
   IVF:
                                                                  2,447 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    860 mL
   Urine:
                                                                  2,485 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    292 mL
                                                                   -449 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 928 (928 - 928) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 13 cmH2O
   SpO2: 96%
   ABG: 7.32/40/64/22/-5
   Ve: 13.7 L/min
   PaO2 / FiO2: 64
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no murmurs noted
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.5 g/dL
   252 K/uL
   137 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.7 mEq/L
   19 mg/dL
   107 mEq/L
   141 mEq/L
   24.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2119-8-14**]  12:29 AM
                             [**2119-8-14**]  07:27 AM
                             [**2119-8-14**]  03:35 PM
                             [**2119-8-14**]  03:43 PM
                             [**2119-8-14**]  06:03 PM
                             [**2119-8-14**]  11:34 PM
                             [**2119-8-15**]  04:56 AM
   WBC
   8.7
   9.6
   Hct
   23.9
   23.5
   24.2
   24.6
   Plt
   228
   252
   Cr
   2.1
   1.5
   1.4
   1.4
   TropT
   0.01
   <0.01
   <0.01
   0.02
   0.01
   TCO2
   18
   22
   Glucose
   158
   375
   137
   Other labs: PT / PTT / INR:14.4/41.8/1.2, CK / CKMB /
   Troponin-T:133/5/0.01, Amylase / Lipase:78/107, Differential-Neuts:78.9
   %, Band:0.0 %, Lymph:13.7 %, Mono:6.0 %, Eos:0.8 %, Lactic Acid:2.3
   mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: SPEP- normal, UPEP- pending
   Imaging: [**8-14**] Echo- suboptimal, nl EF, LAE
   [**8-14**] CXR- R sided infiltrate
   [**8-15**] CXR- unchanged
   Microbiology: [**8-14**] Blood and urine cx- pending
   Assessment and Plan
   74 yo male [**Hospital1 69**] resident with scizoaffective d/o, dementia, CKD,
   admitted s/p unwitnessed fall and with hyperkalemia, acute renal
   failure and bradycardia.  Hypoxemic resp distress episodes yest.
   Hypoxemic resp distress: may have been multifactorial, related to
   agitation/ anxiety, possible aspiration, component of flash edema is
   possible though echo and CXR don't really fit
   -increase risperidone dosing to control agitation
   -head of bed up/ aspiration precautions
   -resume home antihypertensives
   -empiric aspiration coverage for now, would narrow to po ABX coverage
   or possibly limit course given only mild hypoxemia as symptom, could
   just be a pneumonitis
   Fall- longstanding dizziness for which pt is on meclizine, poss
   hypovolemia and orthostasis vs poss syncope given bradycardia in ED
   -bradycardia w/u and eval as below
   -check orthostatics
   -local wound care for L temporal abrasion
   -would probably check MRI/A brain given prior vert artery disease and
   possibility of a post circulation problem
   [**Name (NI) 7364**] probably related to hyperkalemia, now resolved
   -r/o for ACS already
   -echo largely unremarkable
   Acute on chronic renal failure- resolved, nearing baseline mental
   status
   Anemia- Fe deficient + chronic disease  (renal dz most likely)
   -trend Hct
   -s/p IV Fe therapy, consider Epo
   -holding ASA for now
   Remainder of plan as per housestaff note.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   18 Gauge - [**2119-8-13**] 09:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   I was physically present with the MICU housestaff  team on this date
   for discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments:
   74 yo male with schizoaffective disorder, renal insufficiency admitted
   initially with acute on chronic renal failure, hyperkalemia, and
   bradycardia. Yesterday, he had an episode of acute respiratory distress
   with worsening hypercarbia in the context of uncontrolled hypertension
   (agitation + holding BP meds for renal failure), aspiration, and
   possible flash pulmonary edema- required NIPPV briefly and was treated
   with diuresis, abx, resumption of BP meds, adjustments in psychiatric
   medications. Since then, supplemental oxygen was weaned down to 2
   liters n.c., and he has not required further NIPPV. BP
s improved and
   renal function back to baseline.  Continue BP control, will scale back
   abx to levoquin. Potentially out to medicine floor today.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2119-8-15**] 15:48 ------

2119-08-16 10:03:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   74 yo admitted with ARF/hyperkalemia and bradycardia- course
   complicated by acute resp distress in the context of aspiration and
   possible flash pulmonary edema
   24 Hour Events:
 BLOOD CULTURED - At [**2119-8-16**] 04:14 AM
 URINE CULTURE - At [**2119-8-16**] 04:14 AM
 FEVER - 101.8
F - [**2119-8-16**] 04:00 AM last night- on LVQ
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2119-8-14**] 08:10 PM
   Vancomycin - [**2119-8-14**] 08:58 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-8-16**] 08:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-16**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.8
C (98.3
   HR: 68 (64 - 86) bpm
   BP: 130/55(75) {121/40(57) - 162/58(83)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.4 kg (admission): 82 kg
             Total In:
                                                                  1,740 mL
                                                                    298 mL
   PO:
                                                                  1,500 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    755 mL
   Urine:
                                                                  2,025 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -285 mL
                                                                   -457 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Lungs: few rales at bases
   CV: RRR with /6 SEM
   Abd: soft, mildly distended, hypoactive bs, nontender
   Ext: bilateral boots, no peripheral edema
   Skin:  warm
   Neurologic: Responds to: verbal commands, Movement: purposeful,
   Tonenormal
   Labs / Radiology
   7.5 g/dL
   229 K/uL
   167 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.2 mEq/L
   11 mg/dL
   105 mEq/L
   139 mEq/L
   24.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2119-8-14**]  12:29 AM
                             [**2119-8-14**]  07:27 AM
                             [**2119-8-14**]  03:35 PM
                             [**2119-8-14**]  03:43 PM
                             [**2119-8-14**]  06:03 PM
                             [**2119-8-14**]  11:34 PM
                             [**2119-8-15**]  04:56 AM
                             [**2119-8-16**]  03:29 AM
   WBC
   8.7
   9.6
   8.2
   Hct
   23.9
   23.5
   24.2
   24.6
   24.1
   Plt
   [**Telephone/Fax (3) 7378**]
   Cr
   2.1
   1.5
   1.4
   1.4
   1.2
   TropT
   0.01
   <0.01
   <0.01
   0.02
   0.01
   TCO2
   18
   22
   Glucose
   158
   375
   137
   167
   Other labs: PT / PTT / INR:14.7/41.7/1.3, CK / CKMB /
   Troponin-T:133/5/0.01, Amylase / Lipase:78/107, Differential-Neuts:73.5
   %, Band:0.0 %, Lymph:17.0 %, Mono:7.4 %, Eos:1.5 %, Lactic Acid:2.3
   mmol/L, Ca++:8.6 mg/dL, Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: cardiac enzymes negative for MI
   Imaging: CXR: Partial improvement in predominantly R sided infiltrates
   Microbiology: Bd Cultures NGTD
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PULMONARY EDEMA
 BRADYCARDIA
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 yo with schizoaffective disorder admitted with ARF/hyperkalemia and
   bradycardia
   1.       Acute respiratory distress- Has not required NIPPV for the
   past 24 hours. It developed concurrent with high BP
s and responded to
   diuretics, though CXR appearance was atypical (unilateral) raising
   concern for aspiration- Improved with BP control, on levoquin
   empirically
   2.       s/p fall did have ventricular escape rhythm and hyperkalemia
   *(8) upon arrival. does have known posterior circulation disease. Echo
   without explanatory cause
   3.       ARF/Hyperkalemia- appears pre-renal and back to renal baseline
   with IV hydration
   4.       Anemia: indices c/w Fe deficiency. Received IV iron and hct
   have been stable during hospitalization. Does need outpt w/u
   5.       Fevers: unclear etiology as CXR is better and pt has only
   peripheral
s. Blood cultures drawn, sputum cultures if pt produces.
   Consider expanding to HCAP coverage if persists.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-8-13**] 09:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :To floor
   Total time spent: